US04089860
Preparation of 1-methyl-5-(methoxycarbonyl-methylene)-hydantoin:
Proceeding in a similar manner to Example 3, 222 g of methyl urea were dissolved in 1000 g of cresol, and 432 g of dimethylmaleate were added. After termination of the reaction during which 92 g of methanol were liberated, and after gas chromatographic analysis showed 95% conversion of the reactants, the cresol was distilled off and the residue fractionated under vacuum. The main fraction distilling over at 140° to 143° C/0.06 Torr was recrystallised from ethyl acetate. The identity of the pure substance obtained, which melted at 100° C, could be confirmed by the IR and NMR spectra and elementary analysis.

reactant | dimethylmaleate | 432 g | C/C(=C(/C(=O)[O-])\C)/C(=O)[O-]
reactant | methanol | 92 g | CO | CH4O
reactant | methyl urea | 222 g | CNC(=O)N | C2H6N2O
solvent | cresol | 1000 g | C1(=CC=CC=C1O)C | C7H8O
product | 1-methyl-5-(methoxycarbonyl-methylene)-hydantoin | CN1C(=O)NC(=O)C1=CC(=O)OC | C7H8N2O4
